US07652023B2
At −78° C. under Ar a dry 250 mL 3 neck flask was charged with 1-bromo-3-fluoro-5-(trifluoromethyl)benzene (4.5 g, 0.018 mol). Dry ether (100 mL) was added and to the stirred solution, nBuLi (9.2 mL, 0.018 mol) was added dropwise via airtight syringe through a rubber septum. The resulting pale orange colored solution was stirred at −78° C. for 30 min. 5-chloropicolinenitrile (2.5 g, 0.018 mol) was then added as a thick slurry in dry ether (approx 10 mL) via wide neck funnel. The resulting solution turned dark red in color and was stirred at −78° C. for 1 hr. LCMS indicated that the reaction was complete and, at −78° C. the reaction mixture was quenched with 1.0M HCl (approx 50 mL). The cooling bath was removed and as the reaction mixture reached ambient temperature, (22° C.), the organic solution turned pale green in color. The solution was transferred to a separation funnel and the organic layer separated. The aqueous phase was washed with EtOAc (20 mL) and the combined organic portions dried over anhydrous Na2SO4, decanted and concentrated yielding a pale brown oil. This was dissolved in hexane (ca 15 mL) and loaded directly onto a silica gel ISCO cartridge (330 g, previously equilibrated with hexanes) and elution at 100 mL/min gradient 0 to 70% EtOAc in hexanes over 45 min. Elution time of the product was 17 to 20 mins and (5-chloropyridin-2-yl)(3-fluoro-5-(trifluoromethyl)phenyl)methanone (4.1 g, 75% yield) was isolated as a pale yellow oil which crystallized on standing. Rf 0.74 (Hexane:EtOAc 4:1) LCMS: 2.03 min [M+1] 304.2 (2 min gradient, MeOH/H2O 0.1% TFA); HPLC: 3.98 min (4 min gradient, MeOH/H2O 0.2% PPA Purity 98%; NMR: 400 MHz 1H (CDCl3) 8.69 ppm, 1H, d, J=2.64 Hz; 8.22 ppm, 1H, s; 8.13 ppm, 1H, d, J=8.36 Hz; 8.07 ppm, 1H, brd, J=8.4 Hz; 7.93 ppm, 1H, dd, J=2.2 and J=8.36 Hz; 7.57 ppm, 1H, brd, J=8.4 Hz.

reactant | 1-bromo-3-fluoro-5-(trifluoromethyl)benzene | 0.018 mol, 4.5 g | BrC1=CC(=CC(=C1)C(F)(F)F)F | C7H3BrF4
reactant | nBuLi | 0.018 mol, 9.2 mL | [Li]CCCC
reactant | 5-chloropicolinenitrile | 0.018 mol, 2.5 g | ClC=1C=CC(=NC1)C#N | C6H3ClN2
reactant | ether | approx 10 mL | CCOCC | C4H10O
reactant | ether | 100 mL | CCOCC | C4H10O
solvent | hexane | ca 15 mL | CCCCCC | C6H14
product | (5-chloropyridin-2-yl)(3-fluoro-5-(trifluoromethyl)phenyl)methanone | 4.1 g, 75% yield | ClC=1C=CC(=NC1)C(=O)C1=CC(=CC(=C1)C(F)(F)F)F | C13H6ClF4NO
